US08461167B2
5-Bromo 3-Pyridineacetamide
(5-Bromo-pyridin-3-yl)-acetonitrile (1 g, 5.1 mmol) was dissolved in a mixture of EtOH (20 ml) and water (1.2 ml). H2SO4 (6.8 ml) was then added to the mixture and the mixture was heated at −110° C. for 24 hrs. Solvent was removed under vacuo, taken up in EtOAc and washed with 2N Na2CO3 solution. Drying and evaporation gave a crude oil which was sufficiently pure for the next step.

reactant | (5-Bromo-pyridin-3-yl)-acetonitrile | 5.1 mmol, 1 g | BrC=1C=C(C=NC1)CC#N | C7H5BrN2
reactant | H2SO4 | 6.8 ml | OS(=O)(=O)O | H2O4S
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | water | 1.2 ml | O | H2O
product | 5-Bromo 3-Pyridineacetamide | BrC=1C=C(C=NC1)CC(=O)N | C7H7BrN2O
